US08802713B2
Then, 0.28 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-(hydroxyimino)methylene-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole was dissolved in 10 mL of tetrahydrofuran, 0.12 g of triethylamine was added, and 0.13 g of trifluoroacetic anhydride was slowly dropwise added under cooling with ice. After stirring at room temperature for 2 hours, the solvent was distilled off under reduced pressure, and extraction with ethyl acetate was carried out. The organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:4) to obtain 0.28 g of 5-cyano-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole.

reactant | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-(hydroxyimino)methylene-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole | 0.28 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C(C1=NO)=C)OC(C(OC(F)(F)F)F)(F)F | C16H11F10N3O3S
reactant | triethylamine | 0.12 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.13 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-cyano-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole | 0.28 g | C(#N)C1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OC(C(OC(F)(F)F)F)(F)F | C16H9F10N3O2S
